US07273856B2
Analogously to Example 95) 4-[2-2(R)-amino-3-phenyl-propionylamino)-ethyl]-piperazine-1-carboxylic acid tert-butyl ester (obtained starting from Z-D-phenylalanine and N-Boc-4-hydroxyethylpiperazine by reactions and couplings widely described in literature and in part already reported in previous examples) (100 mg, 0.26 mmol) and 2-benzo[b]thiophen-2-yl-3-oxa-1-azaspiro[4.4]-non-1-en-4-one (72 mg, 0.26 mmol) are caused to react in DMF to yield a product which is deprotected and subsequently acylated with thiophen-2-yl-acethyl chloride in CH2Cl2 (as described in Example 94 and purified by flash chromatography using AcOEt as the eluent. 69 mg (0.10 mmol) of benzo[b]thiophene-2-carboxylic acid [1-(2-phenyl-1(R)-{2-[4-(thiophen-2-yl-acetyl)-piperazin-1-yl]-ethylcarbamoyl}-ethylcarbamoyl)-cyclopentyl]-amide are so obtained.

reactant | Z-D-phenylalanine | C1=CC=C(C=C1)C[C@H](C(=O)O)NC(=O)OCC2=CC=CC=C2 | C17H17NO4
reactant | N-Boc-4-hydroxyethylpiperazine | C(=O)(OC(C)(C)C)N1CCN(CC1)CCO | C11H22N2O3
reactant | 2-benzo[b]thiophen-2-yl-3-oxa-1-azaspiro[4.4]-non-1-en-4-one | 0.26 mmol, 72 mg | S1C2=C(C=C1C1=NC3(C(O1)=O)CCCC3)C=CC=C2 | C15H13NO2S
reactant | DMF | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | benzo[b]thiophene-2-carboxylic acid [1-(2-phenyl-1(R)-{2-[4-(thiophen-2-yl-acetyl)-piperazin-1-yl]-ethylcarbamoyl}-ethylcarbamoyl)-cyclopentyl]-amide | 0.10 mmol, 69 mg | C1(=CC=CC=C1)C[C@H](C(NCCN1CCN(CC1)C(CC=1SC=CC1)=O)=O)NC(=O)C1(CCCC1)NC(=O)C1=CC2=C(S1)C=CC=C2 | C36H41N5O4S2
